US06927230B2
To a solution of trifluoroacetoamidine (4.24 g, 37.8 mmol) in methanol (20 mL), were added 4-methoxyphenylhydrazine hydrochloride (4.72 g, 27 mmol) and then triethylamine (3.77 mL, 27 mmol) at room temperature. The mixture was stirred for 6 hours. The solvent was removed under reduced pressure. 20 mL of water and 50 mL of ethyl acetate-tetrahydrofuran (9:1) were added to the residue and the organic layer was separated and the aqueous layer was extracted with 50 mL of ethyl acetate-tetrahydrofuran (9:1). A combined organic layer was washed with water and brine, and dried over magnesium sulfate. The solvent was removed under reduced pressure to give 2,2,2-trifluoro-N′-(4-methoxyphenyl)ethanehydrazonamide (6.82 g, 108.2% yield). The residue was used for the next reaction without purification.

reactant | trifluoroacetoamidine | 37.8 mmol, 4.24 g | FC(C(=N)N)(F)F | C2H3F3N2
reactant | 4-methoxyphenylhydrazine hydrochloride | 27 mmol, 4.72 g | Cl.COC1=CC=C(C=C1)NN
reactant | triethylamine | 27 mmol, 3.77 mL | C(C)N(CC)CC | C6H15N
solvent | methanol | 20 mL | CO | CH4O
product | 2,2,2-trifluoro-N′-(4-methoxyphenyl)ethanehydrazonamide | 6.82 g, 108.2% yield | FC(C(N)=NNC1=CC=C(C=C1)OC)(F)F | C9H10F3N3O
